Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Altered mental status, intermittent urinary incontinence
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ y/o male with Alzheimer's and HTN who presented 
with change in mental status. Patient is oriented to himself 
only so the majority of the history was obtained from the ED 
report based on conversations with the patients wife. Wife 
reports that for the last couple of days, he became more 
solmnolent, he would come down to eat then sleep the rest of the 
day. He also is increasingly confused and started urinating on 
the floor. As per wife he has not had any fevers, chest pain or 
difficulties breathing. She does state that he is having 
difficulty walking and has a droop to his left face. Patient 
denies any confusion. Denies dysuria, cough , chest pain. Per 
report, he does not take any medications.
 
Past Medical History:
ASTHMA  
ECZEMA  
HYPERTENSION  
TRANSURETHRAL PROSTATECTOMY  
ALZHEIMER'S DISEASE  
H/O CATARACT  
H/O DJD- BOTH KNEE DISABLED S/P ARTHROSCOPY ICD-715.96  
H/O INGUINAL HERNIA
 
Social History:
___
Family History:
not contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
 Vital Signs: 98.0, 170 / 92, 60 20 100 ra  
 General: Alert to self only, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL 
(2mm sluggishly reactive), right eye with increased lid visible 
compared with left. no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, evidence of chronic venous stasis changes in the left 
lower extremity.  
 Neuro: CNII-XII grossly intact, no visible asymmetry on 
examination, ___ strength upper/lower extremities, grossly 
normal sensation, gait deferred.  

DISCHARGE PHYSICAL EXAM
=======================
 Vitals: T 98, BP 155/97, HR 84, RR 18, SpO2 100/RA
 General: Alert to self only, no acute distress  
 HEENT: Sclera anicteric, MMM
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, 1+ pitting edema up to 
ankles b/l, evidence of chronic venous stasis changes in the 
left lower extremity.  
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:30AM   GLUCOSE-79 UREA N-14 CREAT-1.1 SODIUM-142 
POTASSIUM-3.6 CHLORIDE-104 TOTAL CO2-31 ANION GAP-11
___ 07:30AM   CALCIUM-9.2 PHOSPHATE-3.3 MAGNESIUM-2.0
___ 07:30AM   VIT B12-333 FOLATE-11.8
___ 07:30AM   WBC-4.6 RBC-3.84* HGB-11.7* HCT-37.6* MCV-98 
MCH-30.5 MCHC-31.1* RDW-13.1 RDWSD-46.3
___ 07:30AM   PLT COUNT-180
___ 07:48PM   LACTATE-1.0
___ 07:33PM   GLUCOSE-102* UREA N-19 CREAT-1.3* SODIUM-137 
POTASSIUM-4.5 CHLORIDE-101 TOTAL CO2-30 ANION GAP-11
___ 07:33PM   WBC-4.2 RBC-3.64* HGB-11.1* HCT-35.8* MCV-98 
MCH-30.5 MCHC-31.0* RDW-13.0 RDWSD-46.9*
___ 07:33PM   NEUTS-45.7 ___ MONOS-10.6 EOS-6.3 
BASOS-1.2* IM ___ AbsNeut-1.90 AbsLymp-1.48 AbsMono-0.44 
AbsEos-0.26 AbsBaso-0.05
___ 07:33PM   PLT COUNT-171
___ 07:15PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

PERTINENT LABS
==============
___ 07:30AM BLOOD VitB12-333 Folate-11.8

DISCHARGE LABS
==============
**DID NOT GET MORNING LABS ON DAY OF DISCHARGE**

MICRO
=====
Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING
=======
CT HEAD W/O CONTRAST ___
IMPRESSION: 
1. No acute intracranial process. 
2. Atrophy and probable chronic small vessel disease. 

CXR ___
PA and lateral views of the chest provided. Lungs are clear. 
Heart size is mildly enlarged. The aorta is markedly unfolded. 
Mediastinal prominence likely reflect vascular ectasia. No large 
effusion or pneumothorax is seen. 
 
Brief Hospital Course:
Mr ___ is an ___ with Alzheimer's and hypertension who 
presented from home with increased somnolence and multiple 
episodes of urinary incontinence. He was alert and oriented to 
person alone on admission. SBP at 170, pt does not take any 
anti-hypertensives at home. Had slight increase of creatinine to 
1.3 (from baseline 1.1). Also had a mild anemia, which is stable 
compared to previous values. Denied any review of systems.

Work-up for potential infection was negative (UA, CXR, blood 
culture, WBC count), as was any potential vitamin deficiency 
(B12, folate). Electrolytes and H/H were within normal limits. 
No acute findings on EKG. No focal neuro deficits or ischemic 
changes on CT of head. Discussed pt's care with his wife, who 
shared that they receive no additional services or help at home 
(wife is pt's care giver) and that care of the patient was 
becoming difficult. Would be interested in services at home. It 
is quite possible that the changes noted in the patient that 
prompted admission were related to progression of his disease. 
Case management was involved in coordinating additional services 
for the patient going home.

As for the urinary incontinence, he had a normal UA and no 
urinary complaints. Perhaps due to disease progression. 
Creatinine returned back to baseline of 1.1 with IVF.

As for hypertension, the patient is asymptomatic and not taking 
any medications for BP at home. None were started during 
admission, and this should be addressed as an outpatient.

Pt had stable H/H throughout admission - Hgb 11.1-11.7 and Hct 
___.

TRANSITIONAL ISSUES:
====================
[] Address BP goals and whether or not there is any role for 
anti-hypertensives in pt's management
[] Discuss long-term goals for patient's care and possibilities 
for further assistance
[] CODE STATUS: DNR/DNI per attending conversation in hospital
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: 
- Alzheimer's disease 
- Hypertension (high blood pressure) 
 
Secondary diagnoses: 
- Anemia 
- Mild acute kidney injury 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___ and family,

You were admitted to ___ from 
___ to ___ for some increased sleepiness and loss of 
bladder control.

WHILE YOU WERE IN THE HOSPITAL:
===============================
- We did blood tests and an x-ray of your chest to look for any 
infection that might cause you to be more tired. These tests 
showed no signs of infection.

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL?
=============================================
- You will go to a rehab facility to work on your strength.
- You will see you primary care doctor, ___, in the office 
for follow-up once you leave the rehab facility.

If you have any further questions with your care, please do no 
hesitate to contact us. We wish you the best with your health 
going forward.

Your ___ Care Team
 
Followup Instructions:
___